US09238631B2
b) Di-tert-butyl (5R)-2-(benzyloxycarbonyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate
To a suspension of 66 mg sodium hydride (60% in oil, 1.66 mmol) in N,N-dimethyl-formamide (10 mL) was added a solution of 456 mg benzyl tert-butyl malonate (commercial, 1.82 mmol) in N,N-dimethylformamide (5 mL) at room temperature. The mixture was stirred for one hour at room temperature before a solution of 560 mg tert-butyl (2R)-4-bromo-2-[(tert-butoxycarbonyl)amino]butanoate (1.66 mmol) in N,N-dimethylformamide (5 mL) was added. The mixture was stirred for 60 hours at room temperature and was then evaporated in vacuo. The residue was purified by column chromatography on silica gel (1.5→20% ethyl acetate in hexane) to give the title compound (390 mg, 46% yield).

reactant | sodium hydride | 1.66 mmol, 66 mg | [H-].[Na+]
reactant | benzyl tert-butyl malonate | 1.82 mmol, 456 mg | C(CC(=O)OC(C)(C)C)(=O)OCC1=CC=CC=C1 | C14H18O4
reactant | tert-butyl (2R)-4-bromo-2-[(tert-butoxycarbonyl)amino]butanoate | 1.66 mmol, 560 mg | BrCC[C@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C13H24BrNO4
solvent | N,N-dimethyl-formamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Di-tert-butyl (5R)-2-(benzyloxycarbonyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate | 390 mg, 46% yield | C(C1=CC=CC=C1)OC(=O)C(C(=O)OC(C)(C)C)CC[C@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C27H41NO8
